US05162326
3-Butyl-6-chloro-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione
A mixture of 3-butyl-6-chloropyrimidine-2,4(1H,3H)-dione (1 g), 4-bromomethyl-2'-(N-trityltetrazol-5-yl)biphenyl (3.02 g) and potassium carbonate (0.82 g) in DMF (50 ml) was stirred at 60° C. for 4 hours. The reaction mixture was concentrated to dryness in vacuo and then the residue was dissolved in methylene chloride. The insoluble material was removed from the reaction mixture by filtration and the filtrate was concentrated to dryness. The resulting residue was purified by column chromatography on silica gel and recrystallized from ethyl acetate-hexane to give colorless prisms (1.97 g, 59%).

reactant | 3-butyl-6-chloropyrimidine-2,4(1H,3H)-dione | 1 g | C(CCC)N1C(NC(=CC1=O)Cl)=O | C8H11ClN2O2
reactant | 4-bromomethyl-2'-(N-trityltetrazol-5-yl)biphenyl | 3.02 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | potassium carbonate | 0.82 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-Butyl-6-chloro-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 1.97 g, 59% | C(CCC)N1C(N(C(=CC1=O)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H35ClN6O2
